US20010020089A1
(2R,3R,4S,5S)-4-(Benzoyloxy)-2-(6-chloro-2-iodo-9H-purin-9-yl)-5-[(ethylamino)carbonyl]-tetrahydro-3-furanyl benzoate
n-Butyl nitrite (4.65 ml, 39.7 mmol) was added to a suspension of (2R,3R,4S,5S)-2-(2-amino-6-chloro-9H-purin-9-yl)-4-(benzoyloxy)-5-[(ethylamino)carbonyl]-tetrahydro-3-furanyl benzoate (Preparation 18) (8.10 g, 14.7 mmol), iodine (3.73 g, 14.7 mmol), copper(I) iodide (6.16 g, 32.3 mmol) and diiodomethane (12.55 ml, 155.8 mmol) in THF (100 ml) and the mixture was heated at reflux for 2.5 hours. The solution was allowed to cool to room temperature and the solvent was removed under reduced pressure. The residue was partitioned between aqueous sodium metabisulfite solution (5%, 100 ml) and dichloromethane (100 ml). The organic layer was separated, filtered through arbacel, dried (MgSO4) and solvent evaporated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with dichloromethane:methanol (99:1 by volume) to afford the title compound as a yellow foam (7.55 g, 78%).

reactant | n-Butyl nitrite | 39.7 mmol, 4.65 ml | N(=O)OCCCC | C4H9NO2
reactant | (2R,3R,4S,5S)-2-(2-amino-6-chloro-9H-purin-9-yl)-4-(benzoyloxy)-5-[(ethylamino)carbonyl]-tetrahydro-3-furanyl benzoate | 14.7 mmol, 8.10 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)C(=O)NCC)N1C2=NC(=NC(=C2N=C1)Cl)N | C26H23ClN6O6
reactant | iodine | 14.7 mmol, 3.73 g | II | I2
reactant | diiodomethane | 155.8 mmol, 12.55 ml | ICI | CH2I2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | copper(I) iodide | 32.3 mmol, 6.16 g | [Cu]I
product | (2R,3R,4S,5S)-4-(Benzoyloxy)-2-(6-chloro-2-iodo-9H-purin-9-yl)-5-[(ethylamino)carbonyl]-tetrahydro-3-furanyl benzoate | 7.55 g, 78% | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)C(=O)NCC)N1C2=NC(=NC(=C2N=C1)Cl)I | C26H21ClIN5O6
